US03975443
N-Formylaminomethylcyclohexyldimethylamine prepared as in Example 3 (9.0 g. 0.05 mole) was dissolved in dry ether (100 ml) and added dropwise to a stirred suspension of lithium aluminium hydride (3.8 g. 0.1 mole) in dry ether (200 ml). The suspension was refluxed for 24 hr. and excess lithium aluminium hydride decomposed by dropwise addition of water (8 ml), 30% sodium hydroxide solution (6 ml), and water (28 ml). The ether layer was separated, dried (Na2SO4), and evaporated to give a colourless mobile oil (7.8 g. 94.2%). An aliquot of this oil was treated with 10% ethanolic hydrochloric acid to give colourless needles of N-methylaminomethylcyclohexyldimethylamine dihydrochloride, m.p. 232°-233° (from ethanol/ether).

reactant | N-Formylaminomethylcyclohexyldimethylamine | C(=O)NCN(CC1CCCCC1)C | C10H20N2O
reactant | lithium aluminium hydride | 0.1 mole, 3.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 6 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ethanol ether | C(C)O.CCOCC
solvent | water | 28 ml | O | H2O
solvent | water | 8 ml | O | H2O
product | N-methylaminomethylcyclohexyldimethylamine dihydrochloride | Cl.Cl.CNCN(CC1CCCCC1)C | InChI=1S/C10H22N2.2ClH/c1-11-9-12(2)8-10-6-4-3-5-7-10;;/h10-11H,3-9H2,1-2H3;2*1H
